US06838567B1
Methyl (R)-4-amino-2-chlorobutyrate hydrochloride (38.7 mg, optical purity 93.9% ee) was dissolved in 5 ml of 1.0 M sulfuric acid aqueous solution, and the solution was stirred at room temperature for 27 hours. Without particularly isolating (R)-4-amino-2-chlorobutyric acid in the reaction solution, the reaction solution was neutralized to pH 7 with a 30% sodium hydroxide aqueous solution, 259.7 mg of barium hydroxide octahydrate was added, and the solution was stirred with heating at 100° C. for 27 minutes. Without particularly isolating (S)-azetidine-2-carboxylic acid in the reaction solution, 6 N hydrochloric acid was added to the reaction solution to adjust pH to 9.4, 94.1 mg of sodium carbonate and 93.6 mg of di-tert-butyl dicarbonate were added, and the solution was stirred at room temperature for 19 hours. This was adjusted to pH 1.8 by addition of 6 N hydrochloric acid, and extracted three times with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate, and the solvent was distilled off to give (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (yield 61.8%, optical purity 87.0% ee). The yield was determined by high performance liquid chromatography using highly pure (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid as a standard. The analysis of the optical purity was carried out by high performance liquid chromatography using a chiral column (Chiralcel OD-R (Daicel)).

reactant | Methyl (R)-4-amino-2-chlorobutyrate hydrochloride | 38.7 mg | Cl.NCC[C@H](C(=O)OC)Cl
reactant | (R)-4-amino-2-chlorobutyric acid | NCC[C@H](C(=O)O)Cl | C4H8ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | barium hydroxide octahydrate | 259.7 mg | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | (S)-azetidine-2-carboxylic acid | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium carbonate | 94.1 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 93.6 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sulfuric acid | 1.0 M, 5 ml | S(O)(O)(=O)=O | H2O4S
product | (S)-N-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | yield 61.8% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
